US03947577
To 3-cyanopyridine (2 g.) in methanol (30 ml.) is added sodium (0.1 g.). The solution is allowed to stand 0.5 hours at ambient temperature and is then added to a solution of 1-methyl-2-(p-chlorobenzoyl)hydrazine (3.6 g.) in methanol (40 ml.). The reaction mixture is heated at reflux for 5 hours and is then concentrated to an oil which solidifies. After recrystallization from isopropanol, yielding 0.2 g of 1-methyl-3-(p-chlorophenyl)-5-(3-pyridyl)-1,2,4-triazole, m.p. 157°-158°C. is obtained.

reactant | 3-cyanopyridine | 2 g | C(#N)C=1C=NC=CC1 | C6H4N2
reactant | sodium | 0.1 g | [Na] | Na
reactant | 1-methyl-2-(p-chlorobenzoyl)hydrazine | 3.6 g | CNNC(C1=CC=C(C=C1)Cl)=O | C8H9ClN2O
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 40 ml | CO | CH4O
product | 1-methyl-3-(p-chlorophenyl)-5-(3-pyridyl)-1,2,4-triazole | 0.2 g | CN1N=C(N=C1C=1C=NC=CC1)C1=CC=C(C=C1)Cl | C14H11ClN4
